US07368578B2
A mixture of piperidine-1-carbothioamide (3.00 g), 3-chloro-2-butanone (4.43 g) and 2-propanol (30 mL) was heated under reflux for 15 hrs. After concentration of the reaction mixture, saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 1-(4,5-dimethyl-1,3-thiazol-2-yl)piperidine as a colorless oil (4.05 g, yield 99%) from a fraction eluted with ethyl acetate-hexane (1:6, v/v).

reactant | piperidine-1-carbothioamide | 3.00 g | N1(CCCCC1)C(N)=S | C6H12N2S
reactant | 3-chloro-2-butanone | 4.43 g | ClC(C(C)=O)C | C4H7ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 2-propanol | 30 mL | CC(C)O | C3H8O
product | 1-(4,5-dimethyl-1,3-thiazol-2-yl)piperidine | 4.05 g, yield 99% | CC=1N=C(SC1C)N1CCCCC1 | C10H16N2S
